US06350761B1
To 4-(piperidin-4-yl)oxy-3-trifluoromethyl-N-(2-(ethoxycarbonyl)ethylcarbonyl)-N-(3-(6-(hydroxy)-3-amidinophenyl)prop-2-en-1-yl)benzenamine (2.0 g) in 100 mL ethanol/H2O (50/50) was added LiOH (0.56 g) at ambient temperature and the resulting solution was stirred at ambient temperature for 4 hours. The reaction was acidified with trifluoroacetic acid, concentrated, separated on HPLC (CH3CN/H2O, gradient) and freeze-dried to afford 4-(piperdin-4-yl)oxy-3-trifluoromethyl-N-(2-(carboxy)ethylcarbonyl)-N-(3-(6-(hydroxy)-3-amidinophenyl)prop-2-en-1-yl)benzenamine.

reactant | 4-(piperidin-4-yl)oxy-3-trifluoromethyl-N-(2-(ethoxycarbonyl)ethylcarbonyl)-N-(3-(6-(hydroxy)-3-amidinophenyl)prop-2-en-1-yl)benzenamine | 2.0 g | N1CCC(CC1)OC1=C(C=C(C=C1)N(CC=CC1=CC(=CC=C1O)C(N)=N)C(=O)CCC(=O)OCC)C(F)(F)F | C28H33F3N4O5
reactant | LiOH | 0.56 g | [Li+].[OH-]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol H2O | 100 mL | C(C)O.O
product | 4-(piperdin-4-yl)oxy-3-trifluoromethyl-N-(2-(carboxy)ethylcarbonyl)-N-(3-(6-(hydroxy)-3-amidinophenyl)prop-2-en-1-yl)benzenamine | N1CCC(CC1)OC1=C(C=C(C=C1)N(CC=CC1=CC(=CC=C1O)C(N)=N)C(=O)CCC(=O)O)C(F)(F)F | C26H29F3N4O5
